US04731471
{[9a-(2-Chloroethyl)-5,6-dichloro-3-oxo-2,3,9,9a-tetrahydro-1H-fluoren-7-yl]oxy}acetic acid
In an atmosphere of dry nitrogen a solution of {[5,6-dichloro-9a-(2-hydroxyethyl)-3-oxo-2,3,9,9a-tetrahydro-1H-fluoren-7-yl]oxy}acetic acid (3.71 g, 10 mMole) in hexamethylphosphoramide (25 ml), anhydrous ether (50 ml) and triphenylmethane (10 mg) is stirred at 0° C. Methyllithium (12.6 ml of 1.6M) solution in ether=20 mMole) is added, dropwise with stirring, over a period of 30 minutes. A solution of p-toluenesulfonyl chloride (2 g, 10.5 mMole) in ether (15 ml) is added over a period of 30 minutes. Finally, dry lithium chloride (420 mg; 10 mMole) is added. The mixture is stirred and allowed to warm to room temperature over 20 hours. Ether (25 ml) and water (50 ml) is added and the layers separated. The organic layer is acidified with hydrochloric acid, washed four times with water (50 ml portions) and finally with a brine solution. After drying the organic phase with magnesium sulfate, the solvent is removed by evaporation at reduced pressure and the residue recrystallized from acetonitrile to give the desired product.

reactant | {[5,6-dichloro-9a-(2-hydroxyethyl)-3-oxo-2,3,9,9a-tetrahydro-1H-fluoren-7-yl]oxy}acetic acid | 10 mMole, 3.71 g | ClC1=C2C3=CC(CCC3(CC2=CC(=C1Cl)OCC(=O)O)CCO)=O | C17H16Cl2O5
reactant | triphenylmethane | 10 mg | C1(=CC=CC=C1)C(C1=CC=CC=C1)C1=CC=CC=C1 | C19H16
reactant | Methyllithium | 1.6M, 12.6 ml | C[Li]
reactant | p-toluenesulfonyl chloride | 10.5 mMole, 2 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | lithium chloride | 10 mMole, 420 mg | [Cl-].[Li+]
solvent | hexamethylphosphoramide | 25 ml | CN(P(=O)(N(C)C)N(C)C)C | C6H18N3OP
solvent | ether | 50 ml | CCOCC | C4H10O
solvent | ether | 15 ml | CCOCC | C4H10O
solvent | Ether | 25 ml | CCOCC | C4H10O
solvent | water | 50 ml | O | H2O
product | {[9a-(2-Chloroethyl)-5,6-dichloro-3-oxo-2,3,9,9a-tetrahydro-1H-fluoren-7-yl]oxy}acetic acid | ClCCC12CC3=CC(=C(C(=C3C2=CC(CC1)=O)Cl)Cl)OCC(=O)O | C17H15Cl3O4
